US06437150B1
4-Hydroxy-undecanoic Acid 3-(4-tert-Butyl-phenyl)-2-methyl-propenyl Ester
A solution of 10.00 g 4-oxo-undecanoic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester was dissolved in 60 ml methanol and a trace of bromocresol green was added. When 1.63 g sodium cyanoborohydride was added, the color changed immediately from yellow to deep blue. Several drops of 2N HCl/methanol solution turned the color of the reaction back to yellow. The reaction was stirred for 2 ½ hours, with occasional addition of acid to maintain the yellow color. The reaction mixture was evaporated to dryness and water was added to the residue. This solution was extracted with ether and washed with water. The solution was dried, filtered and evaporated to dryness to yield 10.07 g of a colorless oil.

reactant | 4-oxo-undecanoic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester | 10.00 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(CCC(CCCCCCC)=O)=O)C | C25H38O3
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | sodium cyanoborohydride | 1.63 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
catalyst | HCl methanol | 2N, Several drops | Cl.CO
product | 4-Hydroxy-undecanoic Acid 3-(4-tert-Butyl-phenyl)-2-methyl-propenyl Ester | 10.07 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(CCC(CCCCCCC)O)=O)C | C25H40O3
